US06046135
N-Iodosuccinimide (238 g) was added to a stirred solution of ethyl 2-(2,3-dihydro-6-methyl-4-oxo-4H-1,3-oxazin-3-yl)-2-methylpropanoate (200 g) in acetic acid. The mixture was stirred at 40-45° C. for 5 hours then at ambient temperature overnight and evaporated. The residue was diluted with ether, washed with water, sodium carbonate solution (2M) and brine, dried (MgSO4) and evaporated. A solution of the residue in ethanol was cooled to -40° C. to give ethyl 2-(2,3-dihydro-5-iodo-6-methyl-4-oxo-4H-1,3-oxazin-3-yl)-2-methylpropanoate (66.9 g), m.p. 85-87° C.

reactant | N-Iodosuccinimide | 238 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | ethyl 2-(2,3-dihydro-6-methyl-4-oxo-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 200 g | CC1=CC(N(CO1)C(C(=O)OCC)(C)C)=O | C11H17NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 2-(2,3-dihydro-5-iodo-6-methyl-4-oxo-4H-1,3-oxazin-3-yl)-2-methylpropanoate | 66.9 g | IC=1C(N(COC1C)C(C(=O)OCC)(C)C)=O | C11H16INO4
